Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ACE inhibitors / Erythrocin / griseofulvin
 
Attending: ___.
 
Chief Complaint:
numbness and tingling of feet and left hand 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo F with a history of HTN, ascending aortic 
aneurysm, breast ca s/p radiation and lumpectomy who presents 
with 2 weeks of hand/foot sensory changes and change in gait. 

By report, she had a GI illness 4 weeks ago characterized by 
vomiting and diarrhea. Then, 2 weeks ago on ___ or ___, she had 
onset of bilateral numbness of the tips of ___ 10 toes and 
shortly thereafter that day onset of numbness of the tips of ___ 
___ fingers bilaterally. Over the next few days, she had 
onset of mid-thoracic back pain. The numbness then spread to ___ 
bilateral feet and L hand over the next several days and then 
most recently to ___ R hand today. During this time, she has had 
difficulty walking over, particularly over the last few days 
such that she must hold on to something to avoid falling, which 
she believes is because she cannot feel ___ feet. She wonders if 
she may have some slight weakness or clumsiness in ___ L>R hand. 
She has had some pain in ___ posterior calves, L>R though did 
have an Achilles tendon surgery on the L and has some abnormal 
sensation/sense of weakness in this area at baseline so this is 
more difficult for ___ to characterize.

She was evaluated in an OSH ED on ___ and ___ and evaluated by 
___ PCP, with reported reassuring chest/abd imaging at that 
time. 

Of note, she had something relatively similar that occurred ___ 
years ago. She reports that she had onset of bilateral foot/hand 
tingling and also with L facial weakness (diagnosed as Bell's 
palsy). She underwent multiple evaluations, including brain and 
spinal MRI. She brings ___ reports of these images from ___ 
___ in ___, with a few nonspecific T2 hyperintense foci in 
the periventricular and subcortical white matter likely 
representing microangiopathic changes with question of lacunar 
infarcts in the R basal ganglia. There was no contrast 
enhancement. MRA normal. MRI cervical/thoracic spine without 
abnormal cord signal or enhancement. She had an EMG that was 
somehow abnormal, but she does not have this report. She recalls 
being told this may be MS or GBS. She was given oral steroids 
for the facial weakness that completely resolved and ___ 
hand/foot numbness resolved spontaneously over weeks. 

On neurologic review of systems, she does also report that the 
top of ___ tongue feels abnormal, almost like there is cotton on 
it. The patient denies headache, lightheadedness, or confusion. 
Denies difficulty with producing or comprehending speech. Denies 
loss of vision, blurred vision, diplopia, vertigo, tinnitus, 
hearing difficulty, dysarthria, or dysphagia. Denies bowel or 
bladder incontinence or retention, aside from ___ baseline 
intermittent urinary incontinence.  

On general review of systems, the patient denies 
fevers.+back/CP. +vomiting/diarrhea 4 weeks ago. She has taken a 
few opiate medications, and has had no BM x 1 week. Denies 
dysuria or hematuria. Denies myalgias, arthralgias, or rash, 
though reports that ___ skin feels dry.  
 
Past Medical History:
HTN
ascending aortic aneurysm
breast ca s/p radiation and lumpectomy 
Depression
Asthma
R carpal tunnel surgery
L Achilles tendon surgery
2 C-sections, tubal ligation
Bilateral cataract surgery 
 
Social History:
___
Family History:
She has 2 daughters who are healthy. Mother and ___ with 
breast cancer. History of colon cancer on both sides of ___ 
family. GM with lymphoma. Brother with renal cancer. Multiple 
family members with skin cancer. Mother and father with heart 
disease, strong family history of HTN. 
 
Physical Exam:
PHYSICAL EXAMINATION  
Vitals:96.2 ___ 18 99% RA   
General: NAD  
HEENT: NCAT 
___: No cyanosis 
Pulmonary: Breathing comfortably on RA   
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias. No dysarthria. Normal prosody. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 
 
Cranial Nerves - PERRL 3->2 brisk. No APD. Discs crisp
bilaterally. VF full to number counting. EOMI, no nystagmus.
V1-V3 without deficits to light touch bilaterally. No facial
movement asymmetry. Hearing intact to finger rub bilaterally.
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.  

Motor - Normal bulk and tone. No drift. Slight postural tremor
bilaterally. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5-     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5  
5- at L ECR, finger extensors and grip.
  
Sensory - 
Pinprick: Decreased L>R in the dorsal hand a few inches from the
wrist on the R and just proximal to the PIP joints on the L.
Decreased R>L in the ___ digits on the dorsum > palmar 
aspect
with the R being 80% sensation and L nearly 100% in the fingers. 

Decreased L>R on the plantar>dorsal aspect of the bilateral feet
with normal sensation above the ankle bilaterally
Vibration: Decreased vibratory sense in the L foot
Proprioception: Intact in the fingers; decreased in the 
bilateral
feet L>R (unable to say or states in correctly in ___
Temperature: feels cooler on the L arm/leg than R
Decreased pinprick on the R back in the mid-thoracic level at 
the
level of ___ back pain; no overlying rash

DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+  
Unable to elicit bilateral Achilles reflexes       
Plantar response flexor bilaterally.  

Coordination - Slight action tremor/dysmetria on finger to nose
some overshoot on mirroring L>R; no rebound; no saccadic
intrusions  

Gait - Normal initiation. Wide base and unable to tandem walk.
Sway on Romberg. 

=========================================
Discharge Exam

Vitals: T 97.9F BP 164/84 HR 89 RR 18 O2 sat 99% on RA
General: NAD  
HEENT: NCAT 
___: No cyanosis 
Pulmonary: Breathing comfortably on RA   
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert, oriented x 3. Able to relate history without
difficulty. Speech is fluent with full sentences and intact
verbal comprehension. No paraphasias. No dysarthria. Normal
prosody. No evidence of hemineglect. No left-right confusion.
Able to follow both midline and appendicular commands. 
 
Cranial Nerves - PERRL 3->2 brisk. No APD. Right eye deviated
medially on primary gaze. EOM full with saccadic intrusions, no
nystagmus. V1-V3 without deficits to light touch bilaterally. No
facial movement asymmetry. Hearing intact to finger rub
bilaterally. Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.  

Motor - Normal tone. Left thenar wasting. No drift. Slight
postural tremor bilaterally. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5-    5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5  
5- at L ECR, finger extensors and grip. Left APB 4+. 

DTRs:  
       [Bic] [Tri] [___] [Quad] [Achilles]
     L  2+    2+     2+      3+       3+
     R  2+    2+     2+      3+       3+
Crossed adductors at Achilles and patellar      
Plantar response flexor bilaterally.  

Sensory: Decreased sensation to light touch on R>L. Intact
proprioception bilateral. With medium sized movements Slightly
decreased sensation to pinprick R>L throughout.

Coordination - Slight action tremor/dysmetria on finger to nose
some overshoot on mirroring L>R; no rebound;

Gait - Normal initiation. Narrow based, short stride and unable
to tandem walk. Mild sway on Romberg.

 
Pertinent Results:
___ 09:30AM   GLUCOSE-116* UREA N-14 CREAT-0.7 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-26 ANION GAP-18
___ 09:30AM   ALT(SGPT)-29 AST(SGOT)-24 ALK PHOS-82 
AMYLASE-37 TOT BILI-0.6
___ 09:30AM   LIPASE-70*
___ 09:30AM   CALCIUM-9.5 PHOSPHATE-4.0 MAGNESIUM-2.4
___ 09:30AM   VIT B12-309 FOLATE-7
___ 09:30AM   %HbA1c-5.9 eAG-123
___ 09:30AM   CRP-1.0
___ 09:30AM   WBC-5.7 RBC-4.89 HGB-14.0 HCT-42.1 MCV-86 
MCH-28.6 MCHC-33.3 RDW-14.0 RDWSD-43.4
___ 09:30AM   PLT COUNT-281
___ 09:30AM   ___ PTT-29.3 ___
___ 06:15PM URINE  HOURS-RANDOM
___ 06:15PM URINE  UCG-NEGATIVE
___ 06:15PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:15PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 06:15PM URINE  RBC-7* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 06:15PM URINE  HYALINE-3*
___ 06:15PM URINE  MUCOUS-RARE
___ 03:15PM   GLUCOSE-105* UREA N-13 CREAT-0.7 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-22 ANION GAP-22*
___ 03:15PM   estGFR-Using this
___ 03:15PM   ALT(SGPT)-30 AST(SGOT)-27 ALK PHOS-87 TOT 
BILI-0.6
___ 03:15PM   LIPASE-68*
___ 03:15PM   cTropnT-<0.01
___ 03:15PM   ALBUMIN-4.4
___ 03:15PM   VIT B12-338
___ 03:15PM   CRP-0.9
___ 03:15PM   WBC-6.7 RBC-5.30* HGB-14.7 HCT-45.5* MCV-86 
MCH-27.7 MCHC-32.3 RDW-13.7 RDWSD-43.0
___ 03:15PM   NEUTS-61.2 ___ MONOS-15.1* EOS-1.9 
BASOS-0.4 IM ___ AbsNeut-4.09 AbsLymp-1.41 AbsMono-1.01* 
AbsEos-0.13 AbsBaso-0.03
___ 03:15PM   PLT COUNT-302
___ 03:15PM   ___ PTT-28.7 ___

Imaging:
MRI Brain ___
IMPRESSION: 1. Nonenhancing scattered punctate subcortical and 
periventricular T2/FLAIR 
white matter hyperintensities are nonspecific, but likely 
represent sequela of chronic microangiopathy in a patient of 
this age.  These are not in a typical distribution for 
demyelinating process. 
2. No acute intracranial abnormality on contrast enhanced MRI, 
specifically no intracranial hemorrhage, infarct or abnormal 
enhancement. 
3. Additional findings described above. 

MRI C/T Spine ___
IMPRESSION: 1. 2 strands of symmetric linear enhancement of the 
anterior cauda equina spanning the T12 through L1-L2 levels as 
described above without definitive corresponding T2 abnormal 
signal.  This could potentially represent venous enhancement, 
however given the patient's clinical history, sequela of 
___ is a consideration. 
2. There is no definitive abnormal signal or enhancement of the 
cervical and thoracic cord. 
3. Mild degenerative changes as described above without 
high-grade spinal canal or neural foraminal narrowing. 
4. Prominent mediastinal and hilar lymph nodes measuring up to 
1.5 cm in greatest dimension, better evaluated on CTA chest of 
___. 

CTA Abd/Chest ___
IMPRESSION: 1. No evidence of acute pulmonary embolism or aortic 
dissection. 
2. Fusiform ascending aortic aneurysm measuring up to 4.7 x 5.0 
cm, not substantially changed dating back to ___. 
3. Small airways infectious or inflammatory disease in the 
bilateral upper lobes. 
4. Mediastinal and bilateral hilar lymphadenopathy, mildly 
progressed compared to ___. 
5. Ill-defined foci of hypodensity in the uterine fundus could 
reflect fibroids versus endometrial abnormality, but is not well 
evaluated on this exam. 
6. Hepatic steatosis. 
7. Moderate to large hiatal hernia. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of HTN, ascending 
aortic aneurysm, breast cancer s/p radiation and lumpectomy who 
presents with bilateral extremity sensory changes for 2 weeks 
and altered gait for ___ days. ___ exam was not consistent with 
GBS given ___ preserved reflexes and normal ocular exam. MRI 
head was also not concerning for MS. ___ clinical exam and MRI 
cervical/thoracic spine were most consistent with a neuropathy 
caused by cervical spondylosis and left carpal tunnel syndrome. 

She was treated with a soft collar for cervical spondylosis and 
left wrist splint for carpal tunnel. ___ labs, including CRP, 
B12, and RPR were all non-concerning. She will need outpatient 
follow-up with neurology for outpatient EMG and to follow-up the 
remaining labs: B1, ESR, GQ1b Ab, and GD1b Ab. CT Chest/Abd on 
___ also noted mediastinal and hillier lymphadenopathy, mildly 
progressed compared to ___. She will need outpatient 
follow-up with primary care physician for further ___ of 
lymphadenopathy. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Anastrozole 1 mg PO QHS 
2. Carvedilol 6.25 mg PO QHS 
3. Losartan Potassium 50 mg PO QHS 
4. Omeprazole 40 mg PO QHS 
5. Sertraline 75 mg PO QHS 
6. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 

 
Discharge Medications:
1.  Anastrozole 1 mg PO QHS  
2.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY  
3.  Carvedilol 6.25 mg PO QHS  
4.  Losartan Potassium 50 mg PO QHS  
5.  Omeprazole 40 mg PO QHS  
6.  Sertraline 75 mg PO QHS  
7.Bilateral prefabricated wrist splints
Bilateral prefabricated wrist splint from NOPCO

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible Large fiber neuropathy
Cervical Spondylosis
Carpal Tunnel 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the Neurology Service for sensory changes 
in your bilateral feet and hands.  ___ were evaluated and it was 
felt that your symptoms and exam is consistent with a 
combination of cervical spondylosis, possibly large fiber 
neuropathy and known carpal tunnel. While these issues will 
require further outpatient evaluation (EMG) and follow-up 
(neurology as scheduled.

Your Brain MRI and Spine MRI did not reveal evidence of other 
acute issue.  While there was a question of enhancement in your 
nerves, based on review of the imaging this was felt to be a 
normal variant (due to normal veins).

Also during your hospitalization, a CTA Abdomen/Chest was 
performed that did not show any disruption of your known aortic 
aneurysm.  
Of note, there was some mild hilar lymphadenopathy (enlarged 
lymph nodes in your lungs near your heart)but this was seen 
previously in imaging.  Radiology did not feel that further 
imaging was warranted, but ___ should discuss this with your 
primary care physician.

Please call ___ to schedule an EMG that will be 
performed at ___ in ___ Building.

Thank ___ for allowing us to participate in your care,
___ Neurology
 
Followup Instructions:
___